US04250183
Analogously to Example 1, by using equivalent quantities, reacting N-isobutyryl-6-benzhydrylaminocaproic acid and ethyl 6-benzhydrylaminocaproate and suitable processing, dissolving the evaporation residue in ethanol, adding an ethanolic solution of potassium hydroxide, stirring for 12 hours at room temperature and further processing yields N-[N-isobutyryl-6-benzhydrylaminohexanoyl]-6-benzhydrylaminocaproic acid.

reactant | N-isobutyryl-6-benzhydrylaminocaproic acid | C(C(C)C)(=O)N(CCCCCC(=O)O)C(C1=CC=CC=C1)C1=CC=CC=C1 | C23H29NO3
reactant | ethyl 6-benzhydrylaminocaproate | C(C1=CC=CC=C1)(C1=CC=CC=C1)NCCCCCC(=O)OCC | C21H27NO2
reactant | potassium hydroxide | [OH-].[K+]
reactant | ethanol | C(C)O | C2H6O
product | N-[N-isobutyryl-6-benzhydrylaminohexanoyl]-6-benzhydrylaminocaproic acid | C(C(C)C)(=O)N(CCCCCC(=O)N(CCCCCC(=O)O)C(C1=CC=CC=C1)C1=CC=CC=C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C42H50N2O4
